US08877968B2
To 500 mg (0.94 mmol) of ethyl 1-[(R)-2-amino-3-(4-methoxyphenyl)propionyl]-4-cyclohexylpiperidine-4-carboxylate trifluoroacetate dissolved in 5 mL of CH2Cl2 and 0.5 mL (2.8 mmol) of diisopropylethylamine are added 219 mg (0.94 mmol) of thiocarbonic acid O,O-bis(2-pyridyl)ester. After stirring the reaction medium for 2 hours at room temperature, the solvents are evaporated off and the crude product obtained is chromatographed on silica gel (eluent: 6/4 heptane/EtOAc). 421 mg of ethyl 4-cyclohexyl-1-[(R)-2-isothiocyanato-3-(4-methoxyphenyl)propionyl]piperidine-4-carboxylate in the form of a colourless oil are obtained in a yield of 97%.

reactant | ethyl 1-[(R)-2-amino-3-(4-methoxyphenyl)propionyl]-4-cyclohexylpiperidine-4-carboxylate trifluoroacetate | 0.94 mmol, 500 mg | FC(C(=O)O)(F)F.N[C@@H](C(=O)N1CCC(CC1)(C(=O)OCC)C1CCCCC1)CC1=CC=C(C=C1)OC
reactant | diisopropylethylamine | 2.8 mmol, 0.5 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | thiocarbonic acid O,O-bis(2-pyridyl)ester | 0.94 mmol, 219 mg | N1=C(C=CC=C1)OC(OC1=NC=CC=C1)=S | C11H8N2O2S
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | ethyl 4-cyclohexyl-1-[(R)-2-isothiocyanato-3-(4-methoxyphenyl)propionyl]piperidine-4-carboxylate | 421 mg, yield of 97% | C1(CCCCC1)C1(CCN(CC1)C([C@@H](CC1=CC=C(C=C1)OC)N=C=S)=O)C(=O)OCC | C25H34N2O4S
